US06686384B2
b) 2-(2-Trifluoromethyl-6-chlorophenylamino)benzimidazole hydrochloride
0.8 g of 1-(2-aminophenyl)-3-(6-chloro-2-trifluoromethylphenyl)urea was heated under reflux conditions for 5 hours in 10 ml of POCl3, a clear solution resulting. After distilling off the phosphorus oxychloride under reduced pressure, the oily residue was treated with water, slow crystallization taking place. The crystals were filtered off and chromatographed on silica gel using a mixture of 10 parts of dichloromethane and 1 part of methanol. After distilling off the solvent, the residue was dissolved in EA and rendered strongly acidic using a saturated solution of hydrogen chloride gas in diethyl ether. The crystalline precipitate was filtered off. Colorless to slightly yellowish crystals. M.p.: 255-288° C.

reactant | 1-(2-aminophenyl)-3-(6-chloro-2-trifluoromethylphenyl)urea | 0.8 g | NC1=C(C=CC=C1)NC(=O)NC1=C(C=CC=C1Cl)C(F)(F)F | C14H11ClF3N3O
solvent | POCl3 | 10 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 2-(2-Trifluoromethyl-6-chlorophenylamino)benzimidazole hydrochloride | Cl.FC(C1=C(C(=CC=C1)Cl)NC=1NC2=C(N1)C=CC=C2)(F)F | InChI=1S/C14H9ClF3N3.ClH/c15-9-5-3-4-8(14(16,17)18)12(9)21-13-19-10-6-1-2-7-11(10)20-13;/h1-7H,(H2,19,20,21);1H
